US09193732B2
1.4 2-Chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (A1)
A dry, nitrogen-flushed ACE-100 L Reaction vessel is charged with 97.3 g of sodium cyanide, 2,500 g of (2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl)methanol, A1e, 16,680 g (19.5 L) of dimethylamine, Ala (2.0M solution in THF), and 28,320 g (30.0 L) of anhydrous N,N-dimethylformamide. The mixture is stirred at 20±3° C. for 15 min 2.06 kg of manganese(IV) oxide is then added. The dark slurry is stirred for 30 min and 12.36 Kg of manganese (IV) oxide is added in three portions (1st portion: 2.06 kg; 2nd portion: 4.12 g, and 3rd portion: 6.18 kg) every 30 min. After the last portion has been added, the sample is held for 1 h and then 6.18 kg of manganese(IV) oxide is added. The sample is held for 1 h. The reaction mixture is then sampled. The reaction is considered complete if the starting material, A1c is ≦1.0±0.5% as determined by HPLC analysis. The reaction mixture is then filtered through a pad of celite to remove manganese (IV) oxide. The reactor and cake are rinsed with 23 L of ethyl acetate. The filtrate and distil are combined under reduced pressure (45±3° C., 20 mbar) to remove THF, dimethylamine and ethyl acetate. The sample is further distilled under reduced pressure (70±5° C., 5 mbar) to remove DMF. The concentrate is diluted with 35 L of ethyl acetate. The resulting dark solution is washed with aqueous ferrous sulfate solution (1 kg of FeSO4.7H2O in 14 L of water), 15 L of water and finally 15 L of 10% aqueous NaCl solution. The phases are separated after each wash. The organic phase is distilled (45° C., 50 mbar) to azeotropically remove water. The resulting crude A1 (2,788 g of a dark, thick, semi-solid residue) can be used directly in the next step.

reactant | sodium cyanide | 97.3 g | [C-]#N.[Na+]
reactant | (2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl)methanol | 2,500 g | ClC=1N=CC2=C(N1)N(C(=C2)CO)C2CCCC2 | C12H14ClN3O
reactant | dimethylamine | 19.5 L, 16,680 g | CNC | C2H7N
reactant | Ala | 2.0M | N[C@@H](C)C(=O)O | C3H7NO2
catalyst | manganese(IV) oxide | 2.06 kg | [O-2].[Mn+4].[O-2]
catalyst | manganese (IV) oxide | 12.36 Kg | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 6.18 kg | [O-2].[Mn+4].[O-2]
solvent | N,N-dimethylformamide | 30.0 L, 28,320 g | CN(C=O)C | C3H7NO
product | 2-Chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
